US09216980B2
Preparation of 3-Bromo-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
To a suspension of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (300 mg, 1.1 mmol) in DMF (2.5 mL), under an inert atmosphere, was added sodium hydride (65 mg, 1.3 mmol) and the reaction mixture was allowed to stir at ambient temperature for 30 minutes. The reaction mixture was cooled to 0° C. and 2-(trimethylsilyl)ethoxymethyl chloride (0.25 mL, 1.3 mmol) was added dropwise and then the resultant suspension was allowed to warm to room temperature. Water (0.5 mL) was added to the resultant suspension to quench the reaction, the solvent was removed in vacuo and the resultant residue was purified by flash chromatography (silica, 12 g column, ISCO, 0-15% ethyl acetate in cyclohexane) to afford the title compound as an off-white crystalline solid (266 mg, 62%). 1H NMR (CDCl3, 400 MHz): 9.18 (d, J=1.2 Hz, 1H), 8.74 (d, J=2.3 Hz, 1H), 8.58 (d, J=2.3 Hz, 1H), 8.34 (d, J=1.2 Hz, 1H), 5.98 (s, 1H), 3.56-3.60 (m, 2H), 0.94-0.98 (m, 2H), 0.08 (s, 9H). LCMS (Method B): RT=4.55 min, M+H+=(403, 405).

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 1.1 mmol, 300 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C11H5BrN4
reactant | sodium hydride | 1.3 mmol, 65 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 1.3 mmol, 0.25 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Water | 0.5 mL | O | H2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 266 mg, 62% | BrC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H19BrN4OSi
